US06916902B2
N-(4-n-Butylphenyl)phenothiazine (1: X═S)
A 2 L 3 neck round bottom flask equipped with overhead stirrer, reflux condensor and a nitrogen line was charged with 0.948 g (4.216 mmol) palladium acetate and 2.647 g (8.746 mmol) tri-o-tolylphosphine and 50 ml toluene. The mixture was stirred at ambient temperature for 20 minutes until an orange-red solution was formed. At that time, phenothiazine (19.93 g, 100 mmol), 1-bromo-4-butyl benzene (23.6 g, 110 mmol) and sodium t-butoxide (10.71 g, 100 mmol) along with 1000 mL toluene was added. The reaction was placed in an oil bath and heated to reflux for 15 hours. A sample was taken for HPLC showing that all starting material was gone. A major peak with the retention time of 8.6 minutes was seen. The solution was cooled. 15 mL concentrated HCl was added. The solution was stirred for an additional hour. Then the solution was passed through a neutral alumina column (750 g). The column was rinsed with toluene. The solvent was removed using a rotary evaporator to yield a yellow solid. The solid was recrystallized from toulene/MeOH. 19.6 g of white solid was obtained with 99% purity. The yield was 60.6%. MS: 331. 1H NMR (DMSO) δ0.92 (t, 3H), 1.36 (m, 2H), 1.62 (m, 2H), 2.73 (t, 2H), 6.13 (d, 2H), 6.87(m, 4H), 7.05 (d, 2H), 7.30 (d, 2H), 7.47 (d, 2H).

reactant | tri-o-tolylphosphine | 8.746 mmol, 2.647 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | phenothiazine | 100 mmol, 19.93 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 1-bromo-4-butyl benzene | 110 mmol, 23.6 g | BrC1=CC=C(C=C1)CCCC | C10H13Br
reactant | sodium t-butoxide | 100 mmol, 10.71 g | CC(C)([O-])C.[Na+]
reactant | HCl | 15 mL | Cl | ClH
catalyst | palladium acetate | 4.216 mmol, 0.948 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-n-Butylphenyl)phenothiazine | 19.6 g, yield was 60.6% | C(CCC)C1=CC=C(C=C1)N1C2=CC=CC=C2SC=2C=CC=CC12 | C22H21NS
